US08557992B2
To a pressure vessel was charged Pd(dppf)Cl2 (CH2Cl2 adduct, 341 mg, 0.418 mmol) and potassium phosphate (1.48 g, 6.97 mmol). Nitrogen was blown over the solids and THF (8 mL) and H2O (1.6 mL) were added. A solution of 2-chloro-5-hydroxymethylpyridine (500 mg, 3.48 mmol) and 1-methylpyrazole-4-boronic acid pinacol ester (797 mg, 3.83 mmol) was added; the resulting solution was capped and heated at 80° C. overnight, then cooled to rt and diluted with ethyl acetate. The organic solution was washed 1× with saturated aqueous sodium bicarbonate and 1× with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 30-100% ethyl acetate in hexanes to provide [6-(1-methyl-1H-pyrazol-4-yl)pyridin-3-yl]methanol that gave a mass ion (ES+) of 190.1 for [M+H]+.

reactant | potassium phosphate | 6.97 mmol, 1.48 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | 2-chloro-5-hydroxymethylpyridine | 3.48 mmol, 500 mg | ClC1=NC=C(C=C1)CO | C6H6ClNO
reactant | 1-methylpyrazole-4-boronic acid pinacol ester | 3.83 mmol, 797 mg | CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.418 mmol, 341 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 1.6 mL | O | H2O
product | [6-(1-methyl-1H-pyrazol-4-yl)pyridin-3-yl]methanol | CN1N=CC(=C1)C1=CC=C(C=N1)CO | C10H11N3O
